Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest wall trauma, rib fractures
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F presents for eval of rib fx. Pt states that was beside
car, closed car door and hit herself in the ribs on her right
side. Brought to ___ where she underwent a chest x ray
showing right sided rib fractures. Endorses some mild right 
sided
rib pain but no difficulty breathing. Denies any other pain or
injuries. Denies fall, no LOC, no head strike. Has been able to
ambulate since injury. Tx from ___ for Trauma eval. 

 
Past Medical History:
Past Medical History: Hypothyroidism, osteoporosis

Past Surgical History: None
 
Social History:
___
Family History:
reviewed and non-contributory
 
Physical Exam:
Admission Physical Exam:

Vitals: 97.6 85 139/71 15 100% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: No respiratory distress, CTAB, TTP along R lateral chest
wall
ABD: Soft, nondistended, nontender, no rebound or guarding,
FAST negative
Ext: No ___ edema, ___ warm and well perfused
 

Discharge Physical Exam:

Gen: A&Ox3, well-appearing female, in NAD
HEENT: No scleral icterus, mucus membranes moist
Pulm: CTAB, no w/r/r, TTP along R lateral chest wall
CV: NRRR, no m/r/g
Abd: soft, NT/ND, no rebound/guarding, no palpable masses
Ext: WWP bilaterally, no c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits

 

 
Pertinent Results:
==============
ADMISSION LABS
==============

___ 03:40AM BLOOD WBC-5.5 RBC-4.14 Hgb-11.9 Hct-37.6 MCV-91 
MCH-28.7 MCHC-31.6* RDW-12.5 RDWSD-41.2 Plt ___

___ 03:40AM BLOOD Neuts-45.7 ___ Monos-8.9 Eos-2.7 
Baso-0.5 Im ___ AbsNeut-2.52 AbsLymp-2.32 AbsMono-0.49 
AbsEos-0.15 AbsBaso-0.03

___ 03:40AM BLOOD ___ PTT-28.9 ___

___ 03:40AM BLOOD Glucose-151* UreaN-19 Creat-0.5 Na-139 
K-3.8 Cl-105 HCO3-26 AnGap-12

___ 09:05PM BLOOD cTropnT-<0.01

___ 09:08PM BLOOD Lactate-0.9

========
IMAGING
========

___ CXR:
IMPRESSION:  
Low lung volumes with bibasilar atelectasis.  No definite focal 
consolidation. 
  
Few small subcentimeter nodular opacities may be calcified and 
represent 
granulomas.  If these have not been further assess previously, 
consider 
non-urgent chest CT 

==============
DISCHARGE LABS
==============

___ 09:05PM BLOOD WBC-7.1 RBC-4.53 Hgb-12.9 Hct-40.3 MCV-89 
MCH-28.5 MCHC-32.0 RDW-12.2 RDWSD-39.7 Plt ___

___ 09:05PM BLOOD Neuts-71.8* ___ Monos-4.8* 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-5.07# AbsLymp-1.58 
AbsMono-0.34 AbsEos-0.03* AbsBaso-0.03

___ 09:05PM BLOOD Glucose-129* UreaN-17 Creat-0.5 Na-133 
K-5.1 Cl-97 HC___ AnGap-17
 
Brief Hospital Course:
Mrs. ___ was admitted to the Acute Care Surgery Service 
under the care of Dr. ___ for further management of her 
right rib fractures ___ ribs). Her pain was initially 
managed with combination IV and PO pain medications, which were 
fully transitioned to a PO regimen prior to discharge with 
adequate pain relief. Aggressive pulmonary toilet was encouraged 
throughout her hospitalization and she never required 
supplemental oxygen. On HD1, she was evaluated by Physical 
Therapy, who approved her for discharge home without the need 
for services. Additionally, a repeat CXR demonstrated no 
evidence of pneumothorax and her tertiary physical exam was 
negative for any additional traumatic injuries.

On the evening of HD1, the patient was tolerating a regular 
diet, voiding and ambulating without issue, her pain was 
adequately controlled with PO pain medications, and she remained 
afebrile and hemodynamically stable. She was thus discharged 
home with instructions to follow up with her primary care doctor 
within two weeks of discharge to ensure appropriate recovery.
 
Medications on Admission:
Levothyroxine 100mcg QD  
Ca Carb 600mg QD  
ALENDRONATE SODIUM 70 MG TAB QD 
Aspirin 81mg QD
VIT D2 1.25 MG (50,000 UNIT)  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
Do not exceed 4 grams acetaminophen/ 24 hours  
2.  Docusate Sodium 100 mg PO BID 
hold for diarrhea 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*30 Capsule Refills:*0 
3.  Senna 8.6 mg PO BID:PRN constipation 
as needed. 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice daily Disp 
#*30 Tablet Refills:*0 
4.  TraMADol 50 mg PO Q4-6H severe pain 
Take lowest effective dose.  
RX *tramadol 50 mg 1 tablet(s) by mouth every 4 to 6 hours Disp 
#*40 Tablet Refills:*0 
5.  Calcium Carbonate 500 mg PO DAILY  
6.  Levothyroxine Sodium 100 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right sided rib fractures ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the Acute Care Trauma Surgery Service on 
___ after sustaining right sided rib fractures. You were 
admitted to the hospital for pain control and respiratory 
monitoring. You are doing well, tolerating a regular diet, pain 
is controlled with oral medications and you are ready to be 
discharged to home to continue your recovery.

Please note the following discharge instructions:

* Your injury caused right sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___